US08802690B2
To a cooled solution of (2-amino-5-bromophenyl)acetonitrile (11 g, 52 mmol) in concentrated hydrochloric acid (110 mL) at −50° C., a solution of sodium nitrite (3.9 g, 57 mmol) in water (20 mL) was added slowly. After the addition, the mixture was stirred at −50° C. for 2 h. The mixture was neutralized with 33% ammonium hydroxide at 0° C. and extracted with ethyl acetate (3×100 mL). The combined organic layers were washed with saturated sodium chloride (100 mL), dried over anhydrous sodium sulfate and concentrated. The obtained crude product was purified by column chromatography (100-200 mesh silica gel) using 10% ethyl acetate in petroleum ether as eluent to afford 5-bromo-3-cyanoindazole (7 g, 60%) as a solid. 1HNMR (CDCl3) δ ppm 10.7 (br, 1H), 8.1 (s, 1H), 7.64 (d. 1H), 7.5 (d, 1H).

reactant | (2-amino-5-bromophenyl)acetonitrile | 52 mmol, 11 g | NC1=C(C=C(C=C1)Br)CC#N | C8H7BrN2
reactant | sodium nitrite | 57 mmol, 3.9 g | N(=O)[O-].[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | hydrochloric acid | 110 mL | Cl | ClH
solvent | water | 20 mL | O | H2O
product | 5-bromo-3-cyanoindazole | 7 g, 60% | BrC=1C=C2C(=NNC2=CC1)C#N | C8H4BrN3
